US05441955
8-Bromoindolo[2,1-b]quinazoline-6,12-dione
Using the procedure in Example 12 and substituting isatoic anhydride for 5-chloroisatoic anhydride and 5-bromoisatin for 5-fluoroisatin gave the title compound in 9% yield: mp 288°-290.2° C.; 1H NMR (300 MHz, CDCl3) δ 8.56 (d, 1H) 8.44 (d, 1H) 8.06 (s, 1H) 8.04 (s, 1H) 7.82-7.96 (m, 2H) 7.66-7.76 (m, 1H); MS (M+H)+ 328.

reactant | 5-chloroisatoic anhydride | ClC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4ClNO3
reactant | 5-bromoisatin | BrC=1C=C2C(C(NC2=CC1)=O)=O | C8H4BrNO2
reactant | 5-fluoroisatin | FC=1C=C2C(C(NC2=CC1)=O)=O | C8H4FNO2
product | 8-Bromoindolo[2,1-b]quinazoline-6,12-dione | 9% yield | BrC=1C=C2C(C3=NC4=CC=CC=C4C(N3C2=CC1)=O)=O | C15H7BrN2O2
